US08633220B2
Step 3. Isopropyl 2-(3-(6-ethyl-1-naphthamido)phenoxy)acetate
In accordance with the procedure of Example 1, step 5, 6-ethyl-1-naphthoic acid (51 mg, 0.25 mmol) and isopropyl 2-(3-aminophenoxy)acetate (64 mg, 0.31 mmol) were converted into 34 mg (34%) of isopropyl 243-(6-ethyl-1-naphthamido)phenoxy)acetate.

reactant | 6-ethyl-1-naphthoic acid | 0.25 mmol, 51 mg | C(C)C=1C=C2C=CC=C(C2=CC1)C(=O)O | C13H12O2
reactant | isopropyl 2-(3-aminophenoxy)acetate | 0.31 mmol, 64 mg | NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C11H15NO3
reactant | acetate | C(C)(=O)[O-]
product | Isopropyl 2-(3-(6-ethyl-1-naphthamido)phenoxy)acetate | C(C)C=1C=C2C=CC=C(C2=CC1)C(=O)NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C24H25NO4
